Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[H:9]>>[H:5].[O:1][O:2][C:3]([H:4])[C:6]([H:7])([H:8])[H:9],3.42583752398
[H:1][C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])[C:8](=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:8](=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[H:7],2.60069197671
[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11]>>[H:1][C:2]=[C:3]1[O:4][C:5]([H:6])([H:7])[C:8][C:9]1([H:10])[H:11],0.86739079823
[H:1][C:2][H:3].[O:4]=[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[H:1][C:2]([H:3])[O:4][C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14],-1.95187856331
[C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[H:11].[H:1]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[H:11],-6.03400241604
[O:11][H:12].[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]>>[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10][O:11][H:12],-6.47384407201
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:10][H:11]>>[H:3].[O:1]=[C:2][C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:10][H:11],3.97819722834
[C:1]([C:2]([H:3])([H:4])[C:8]([H:9])=[C:10]=[C:11]([H:12])[H:13])([H:6])[H:7].[C:5]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]=[C:11]([H:12])[H:13],-3.9230423390800007
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C@:7]([H:8])([O:9][C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[C:7]([H:8])([O:9][C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:1][C:2]([H:3])=[C:4]([H:5])[H:6],0.987467936509
[C:8]#[C:9][H:10].[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])[H:7]>>[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][H:10],-5.31864606463
[C:2]([H:3])[C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[H:11].[O:1]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[H:11],-8.67431081046
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[c:7]1[o:8][o:9][c:10]1[H:11]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]=[C:10](/[O:9][O:8])[H:11],2.28416545348
[H:17].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-4.48367011206
[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9][H:10]>>[H:10].[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9],3.59820067819
[H:1][C:2][O:3][C:4][H:5].[O:6][C:7]#[C:8][H:9]>>[H:1][C:2][O:3][C:4]([H:5])[O:6][C:7]#[C:8][H:9],-2.87684816892
[H:1][O:2][C:3]([O:5][H:6])=[C:7]([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:4]>>[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-1.56306257169
[H:1][C:2]=[C:3]([H:4])[C:5][C:6]([H:7])([H:8])[C:9]#[C:10][H:11]>>[H:1][C:2]#[C:3][C:6]([H:7])([H:8])[C:9]#[C:10][H:11].[H:4][C:5],3.24898326769
[C:4]([H:5])=[C:6]([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12].[H:1][C:2]=[O:3]>>[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-1.37662403132
[H:1][O:2][C:3]([H:4])([H:5])[C:6][O:8][C:9][C:10]([H:11])([H:12])[H:13].[H:7]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[O:8][C:9][C:10]([H:11])([H:12])[H:13],-4.65255656377
[C:12]([H:13])[H:14].[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11]>>[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14],-5.22125872
[H:15].[O:1]=[C:2]([C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])[H:14]>>[O:1]=[C:2]([C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-4.23383269176
[C:1]#[C:2][C:3]#[C:4][C:5]([H:6])([H:7])[H:8]>>[C:1][C:3]#[C:4][C:5]([H:6])([H:7])[H:8].[C:2],6.939704384760001
[H:1][C:2][O:3][C:4]([C:5]([H:6])=[C:7][H:8])=[C:9]([H:10])[H:11]>>[C:9]([H:10])[H:11].[H:1][C:2][O:3][C:4][C:5]([H:6])=[C:7][H:8],7.57877568497
[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[C:6]([H:7])[C:8]([H:9])([H:10])[O:11][H:12].[H:1][C:2][O:3][C:4][H:5],7.933277521569999
[H:12].[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])=[O:11]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])[O:11][H:12],-1.69053424486
[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][H:11]>>[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10].[H:11],4.681759598309999
[H:1][O:2][O:3]/[C:4]([H:5])=[C:6]/[C:7]([H:8])([H:9])[H:10]>>[H:1][O:2][O:3][C:4]#[C:6][C:7]([H:8])([H:9])[H:10].[H:5],2.16814054917
[H:1][C:2]=[C:3]([H:4])[O:5]/[C:6]([H:7])=[C:8](\[H:9])[O:10][H:11]>>[H:11].[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])[C:8]([H:9])=[O:10],3.31012045268
[O:1][C@:2]([H:3])([O:4][H:5])[C:6]([H:7])([H:8])[H:9]>>[H:3].[O:1]=[C:2]([O:4][H:5])[C:6]([H:7])([H:8])[H:9],0.28775383735800003
[O:1]=[C:2]([H:3])/[C:4]([O:5][H:6])=[C:7](\[H:8])[C:9]([H:10])[H:11]>>[C:7]([H:8])=[C:9]([H:10])[H:11].[O:1]=[C:2]([H:3])[C:4][O:5][H:6],5.55824893947
